US08030518B2
Step D: 5,7-Dimethyl-6-nitro-3,4-dihydronaphthalen-1(2H)-one
PPA (100 g) was warmed to 110° C. and 4-(2,4-dimethyl-3-nitrophenyl)butanoic acid (3.04 g, 12.8 mmol) was added. The resulting solid slowly turn to a brown solution. The reaction was stirred at 110° C. for 4 hours, then poured into 200 ml of water with strong stirring. The mixture was extracted with dichloromethane (×3), and the organic solution was dried over anhydrous Na2SO4 and evaporated to dryness. The residue was purified by Biotage (hexane/EtOAc, 0-30%, 40 min) to give pure compounds as yellow solid (2 g, 71%).

reactant | 4-(2,4-dimethyl-3-nitrophenyl)butanoic acid | 12.8 mmol, 3.04 g | CC1=C(C=CC(=C1[N+](=O)[O-])C)CCCC(=O)O | C12H15NO4
solvent | water | 200 ml | O | H2O
product | 5,7-Dimethyl-6-nitro-3,4-dihydronaphthalen-1(2H)-one | 2 g, 71% | CC1=C2CCCC(C2=CC(=C1[N+](=O)[O-])C)=O | C12H13NO3
